US05705499
b) 2-chloro-5,11-dihydro-11-ethyl-8-formyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-vinyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (2.34 g, 7.43 mmol) was dissolved in 1:1 dichloromethane/methanol (40 mL) and cooled to -78° C. This solution was then saturated with ozone and a stream ozone was bubbled through for 10 minutes while stirring. The mixture was warmed to ambient temperature and quenched with excess dimethylsulfide. The mixture was then concentrated and the resulting residue was purified by flash chromatography (gradient of hexanes to 1:1 hexanes/ethyl acetate) to give the title compound (1.9 g, 81%), m.p. 199°-201° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-vinyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 7.43 mmol, 2.34 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C=C)=O)C | C16H15ClN4O
reactant | dichloromethane methanol | 40 mL | ClCCl.CO
product | 2-chloro-5,11-dihydro-11-ethyl-8-formyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 1.9 g, 81% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C=O)=O)C | C15H13ClN4O2
